US07858800B2
3) Production of isopropyl 4-[1-phenyl-5-propyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-carboxylate
In a nitrogen atmosphere, 30 mg of 4-iodo-1-phenyl-5-propyl-1H-[1,2,3]-triazole prepared in the above 2), 34 mg of isopropyl 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaboran-2-yl)-1,2,3,6-tetrahydropyridine-carboxylate prepared in Example 45-6 and 26 mg of potassium carbonate were dissolved in 3 ml of N,N-dimethylformamide, 7.7 mg of [1,1-bis(diphenylphosphino)-ferrocene]dichloropalladium was added thereto and the mixture was stirred with heating at 80° C. for one night. After the reaction solution was cooled down to room temperature, insoluble matters were removed by filtering through Celite. Water was added to the filtrate, the mixture was extracted with diethyl ether and the diethyl ether layer washed with a saturated saline solution and dried over sodium sulfate. After the solvent was evaporated in vacuo, the residue was separated and purified by a thin-layer chromatography (hexane/ethyl acetate=2/1) to give 9.04 mg of a white solid.

reactant | 4-iodo-1-phenyl-5-propyl-1H-[1,2,3]-triazole | 30 mg | IC=1N=NN(C1CCC)C1=CC=CC=C1 | C11H12IN3
reactant | potassium carbonate | 26 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | isopropyl 4-[1-phenyl-5-propyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-carboxylate | 9.04 mg | C1(=CC=CC=C1)N1N=NC(=C1CCC)C=1CC(NCC1)C(=O)OC(C)C | C20H26N4O2
